US07875728B2
4-[(9-ethyl-9H-carbazol-3-yl)hydrazono]-4H-pyrazole-3,5-diamine was prepared using 143 mg (0.5 mmol) of 2-[(9-ethyl-9H-carbazol-3-yl)hydrazono]malononitrile, which was derived from 3-amino-9-ethylcarbazole (210 mg, 1.0 mmol) and malononitrile (1.5 mmol), and hydrazine hydrate. Solids had not formed after heating the reaction at 75° C. for 1 hr, however, analysis of the reaction solution by TLC indicated that no starting material remained. The solution was allowed to cool to ambient temperature and the solvent was evaporated. The residue was dissolved in ethyl acetate and then precipitated by the addition of hexanes. The resulting solid was isolated by filtration and dried to yield 46 mg (29%) of the compound as a black solid.

reactant | 2-[(9-ethyl-9H-carbazol-3-yl)hydrazono]malononitrile | 0.5 mmol, 143 mg | C(C)N1C2=CC=CC=C2C=2C=C(C=CC12)NN=C(C#N)C#N | C17H13N5
reactant | 3-amino-9-ethylcarbazole | 1.0 mmol, 210 mg | NC=1C=CC=2N(C3=CC=CC=C3C2C1)CC | C14H14N2
reactant | malononitrile | 1.5 mmol | C(CC#N)#N | C3H2N2
reactant | hydrazine hydrate | O.NN
product | 4-[(9-ethyl-9H-carbazol-3-yl)hydrazono]-4H-pyrazole-3,5-diamine | C(C)N1C2=CC=CC=C2C=2C=C(C=CC12)NN=C1C(=NN=C1N)N | C17H17N7
